US07842688B2
c) [3-Methoxy-5-(3-methoxypropoxy)phenyl]methanol
Analogously to Method F, 3.15 g of 3-hydroxymethyl-5-methoxyphenol are reacted with 1-chloro-3-methoxypropane. The title compound is obtained as a slightly yellowish oil. Rf=0.27 (1:1 EtOAc-heptane). Rt=3.23.

reactant | 3-hydroxymethyl-5-methoxyphenol | 3.15 g | OCC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | 1-chloro-3-methoxypropane | ClCCCOC | C4H9ClO
product | [3-Methoxy-5-(3-methoxypropoxy)phenyl]methanol | COC=1C=C(C=C(C1)OCCCOC)CO | C12H18O4
